2147-04-05 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Neuro recs; Initial EEG without evidence of seizure, will get 24 hour
   EEG
   - LP prelim does not look infected, need to follow HSV-PCR
   - Patient received 2 mg versed for LP
   - Received IVIG
   - TSH elevated with normal fT4, Neuro recommends, thyroid
   autoantibodies to r/o Hashimoto's encephalopathy
   - Need IR guided access for midline
   - ordered for c diff
   - BLE US shows; no variability in flow in the left common femoral
   suggests upstream pathology, which could be external compression,
   stenosis or occlusion; recommend MRV or CTV for further
   characterization. Occluded graft to the right saphenous vein.
   - Left UE US; No left upper extremity DVT; veins are difficult to
   compress presumably secondary to AV fistula, but wall-to-wall flow was
   demonstrable.
   - Patient was started on heparin bolus and drip
   Allergies:
   Oxacillin
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2147-4-4**] 06:42 AM
   Vancomycin - [**2147-4-4**] 11:00 AM
   Meropenem - [**2147-4-4**] 01:47 PM
   Metronidazole - [**2147-4-5**] 04:22 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-4-4**] 08:23 AM
   Heparin Sodium - [**2147-4-4**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Psychiatric / Sleep: Delirious
   Allergy / Immunology: Immunocompromised
   Flowsheet Data as of  [**2147-4-5**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 109 (99 - 129) bpm
   BP: 104/54(67) {86/25(37) - 126/74(86)} mmHg
   RR: 24 (19 - 35) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 80.2 kg (admission): 78 kg
             Total In:
                                                                  1,378 mL
                                                                    192 mL
   PO:
             TF:
   IVF:
                                                                  1,378 mL
                                                                    192 mL
   Blood products:
   Total out:
                                                                  3,150 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                 -1,772 mL
                                                                     -8 mL
   Respiratory support
   SpO2: 95%
   ABG: 7.49/42/60/32/7
   Physical Examination
   General Appearance: Overweight / Obese, sitting upright in bed, wearing
   NIPPV mask
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: scattered wheezes : )
   Abdominal: Soft, Bowel sounds present
   Extremities: edema in Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to noxious stimuli only + startle, normal tone
   Labs / Radiology
   497 K/uL
   9.4 g/dL
   94 mg/dL
   6.6 mg/dL
   32 mEq/L
   3.4 mEq/L
   25 mg/dL
   103 mEq/L
   146 mEq/L
   29.2 %
   12.9 K/uL
        [image002.jpg]
                             [**2147-3-28**]  01:18 AM
                             [**2147-3-28**]  05:30 AM
                             [**2147-3-28**]  09:50 AM
                             [**2147-3-29**]  05:33 AM
                             [**2147-3-30**]  04:51 AM
                             [**2147-3-31**]  04:13 AM
                             [**2147-4-4**]  05:27 AM
                             [**2147-4-4**]  06:36 AM
                             [**2147-4-4**]  05:06 PM
                             [**2147-4-5**]  03:38 AM
   WBC
   9.2
   5.9
   7.0
   8.7
   19.5
   12.9
   Hct
   28.4
   29.3
   25.9
   27.8
   30.6
   29.2
   Plt
   [**Telephone/Fax (3) 4517**]
   Cr
   10.3
   6.4
   9.2
   5.5
   9.9
   6.6
   TCO2
   36
   35
   30
   33
   Glucose
   81
   95
   92
   93
   95
   94
   Other labs: PT / PTT / INR:15.0/72.8/1.3, ALT / AST:22/21, Alk Phos / T
   Bili:121/0.4, Differential-Neuts:89.2 %, Lymph:4.5 %, Mono:3.0 %,
   Eos:3.1 %, Lactic Acid:1.1 mmol/L, Albumin:4.4 g/dL, LDH:208 IU/L,
   Ca++:10.3 mg/dL, Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   Fluid analysis / Other labs: [**2147-4-4**] 10:15 am CSF;SPINAL FLUID
   Source: LP #3.
      GRAM STAIN (Final [**2147-4-4**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      FLUID CULTURE (Preliminary):
      FUNGAL CULTURE (Preliminary):
      VIRAL CULTURE (Preliminary):
   Protein 37
   Glucose 74
   WBC 3
   RBC 0
   Imaging: No left upper extremity DVT; veins are difficult to compress
   presumably
   secondary to AV fistula, but wall-to-wall flow was demonstrable.
   1. No variability in flow in the left common femoral suggests upstream
   pathology, which could be external compression, stenosis or occlusion;
   recommend MRV or CTV for further characterization.
   2. Occluded graft to the right saphenous vein.
   3. Graft to right SVC appears without flow.
   Assessment and Plan
   22 yo female with CVID, ESRD on HD, obstructive lung disease, and sleep
   apnea who is transferred back to ICU with altered mental status
   Delirium:  Etiology undetermined, with waxing and [**Doctor Last Name 282**] course.
   Differential includes hypoxemia vs. infection vs. medication effects
   vs. uremia vs. subclinical seizure activity vs. benzodiapine
   withdrawal.  Patient now with leukocytosis to 20K for the past two
   days, but mental status worsened despite initiation of broad-spectrum
   antibiotics yesterday.  [**Month (only) **] reviewed, and patient has not received any
   sedating medications since [**3-30**].
   -          f/u cultures
   -          f/u HSV PCR
   -          Continue broad-spectrum antibiotics with vancomcyin &
   meropenem
   -          Continue Acyclovir pending HSV PCR
   -          Continuous EEG monitoring
   -          Neurology & Psych consults following
   -          Consider MRI if able to tolerate without intubation
   -          Avoid narcotics, sedating medications
   -          Check thyroid autoantibodies
   -          B12, folate wnl this admission
   Hypoxia:   Patient has baseline hypoxia and hypercarbia secondary to
   obstructive lung disease, also diagnosed with severe OSA this
   admission.   Opiate overdose is unlikely given long duration since
   medication exposure.   Consider PE given A-a gradient.
   -          Continue BiPAP qHS and PRN
   -          Sputum for gram stain & culture
   -          Continue Spiriva, Advair, Albuterol PRN
   -          Empirically anticoagulated for ? PE, given known UE DVT and
   A-a gradient; will proceed to CTA chest when able
   Leukocytosis:  WBC rose to 20K on [**4-3**], elevated from baseline of
   6-9K.  Patient did originally present with abdominal pain and colitis;
   however, these symptoms have resolved in the interval course of her
   hospitalization.  New elevation of WBC suggests nosocomial infection.
   Cdiff toxin negative x 1 this admission, but this sample predates
   leukocytosis.  LLL infiltrate on CXR suggestive of aspiration
   pneumonitis vs HAP (although infiltrate has resolved on repeat CXR this
   AM).  Received dose of IVIG on [**4-4**].  CSF was unremarkable, making
   meningitis unlikely.
   -          pan-culture
   -          send stool studies, including repeat c. diff toxin
   -          Continue empiric coverage with vanc/meropenem until culture
   data negative x 72 hours
   -          Continue flagyl and start PR vancomycin as empiric coverage
   for c. diff
   -          dose IVIG today as 0.4 g/kg in the setting of likely acute
   infection
   ESRD: Secondary to IgA nephropathy and multiple episodes of
   pyelonephritis at age 2, s/p cadaveric transplant and rejection.
   - holding sevelamer while NPO
   - continue HD Tues/Thurs/Sat
   - Renal consult following
   .
   Upper extremity DVT: partial SVC occlusion [**3-6**] multiple lines. Not
   previously anticoagulated, now on heparin gtt while awaiting PE
   rule-out.
   -          Upper extremity CVL contraindicated
   Hypotension:   Currently stable off midodrien and fludrocort.
   - resume fludrocortisone and midodrine  when able to take PO
   medications
   OSA:  Previously evaluated by Sleep consult this admission.
   - Continue BiPAP qHS
   CVID: Previously was getting IVIG q2 weekly at dialysis as outpatient.
   -          check immunoglobulin levels
   -          received IVIG in the setting lf leukocytosis on [**4-4**]
   Asthma: Last PFT
s in [**9-/2146**] with moderate to severe proportionate
   decrease in flows and volumes with a strong bronchodilator response.
   Normal diffusion capacity. Features suggestive of poorly controlled
   asthma associated with obesity related ventilatory restriction.
   - Continue Spiriva, Advair
   - Albuterol PRN
   - encourage smoking cessation
   .
   Mental illness:  Patient has a long history of anxiety and depression.
   - Psychiatry
   - hold cymbalta, klonopin, pimozide, cogentin, benztropine as per Psych
   recs
   Prophylaxis:
   -          Heparin gtt
   -          Continue home PPI
   FEN:
   - NPO while delirious.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Midline - [**2147-4-4**] 06:49 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed
   Comments:   Case management meeting with caretakers from [**Name2 (NI) 4524**]
   tomorrow at 11:30
   Code status: Full code
   Disposition:  ICU

2147-04-05 11:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   EEG showed no seizure activity so far. LP done which was normal. IVIG
   dose for CVID. Elevated TSH. Neuro rec thyroid Ab. Difficult IV access,
   unable to place more PIVs. LENIs showed no definite DVT but rec MRV.
 EEG - At [**2147-4-4**] 01:30 PM
 LUMBAR PUNCTURE - At [**2147-4-4**] 05:06 PM
 ULTRASOUND - At [**2147-4-4**] 06:26 PM
   Allergies:
   Oxacillin
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2147-4-4**] 06:42 AM
   Vancomycin - [**2147-4-4**] 11:00 AM
   Meropenem - [**2147-4-4**] 01:47 PM
   Metronidazole - [**2147-4-5**] 04:22 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Heparin Sodium - [**2147-4-4**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-4-5**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 108 (78 - 120) bpm
   BP: 92/43(52) {86/33(45) - 118/65(75)} mmHg
   RR: 20 (19 - 35) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.2 kg (admission): 78 kg
             Total In:
                                                                  1,378 mL
                                                                    236 mL
   PO:
             TF:
   IVF:
                                                                  1,378 mL
                                                                    236 mL
   Blood products:
   Total out:
                                                                  3,150 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                 -1,772 mL
                                                                     36 mL
   Respiratory support
   SpO2: 93%
   ABG: 7.49/42/60/32/7
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   497 K/uL
   94 mg/dL
   6.6 mg/dL
   32 mEq/L
   3.4 mEq/L
   25 mg/dL
   103 mEq/L
   146 mEq/L
   29.2 %
   12.9 K/uL
        [image002.jpg]
                             [**2147-3-28**]  01:18 AM
                             [**2147-3-28**]  05:30 AM
                             [**2147-3-28**]  09:50 AM
                             [**2147-3-29**]  05:33 AM
                             [**2147-3-30**]  04:51 AM
                             [**2147-3-31**]  04:13 AM
                             [**2147-4-4**]  05:27 AM
                             [**2147-4-4**]  06:36 AM
                             [**2147-4-4**]  05:06 PM
                             [**2147-4-5**]  03:38 AM
   WBC
   9.2
   5.9
   7.0
   8.7
   19.5
   12.9
   Hct
   28.4
   29.3
   25.9
   27.8
   30.6
   29.2
   Plt
   [**Telephone/Fax (3) 4517**]
   Cr
   10.3
   6.4
   9.2
   5.5
   9.9
   6.6
   TCO2
   36
   35
   30
   33
   Glucose
   81
   95
   92
   93
   95
   94
   Other labs: PT / PTT / INR:15.0/72.8/1.3, ALT / AST:22/21, Alk Phos / T
   Bili:121/0.4, Differential-Neuts:89.2 %, Lymph:4.5 %, Mono:3.0 %,
   Eos:3.1 %, Lactic Acid:1.1 mmol/L, Albumin:4.4 g/dL, LDH:208 IU/L,
   Ca++:10.3 mg/dL, Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 COLITIS, OTHER (NOT CDIFF)
 RESPIRATORY FAILURE, CHRONIC
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 SUPERIOR VENA CAVA SYNDROME (SVC)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 ASTHMA
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 .H/O HYPOTENSION (NOT SHOCK)
   22 y/o f with CVID, ESRD on HD, COPD here with new AMS, hypoxemia.
   1. AMS: Suspect delirium
   -f/u HSV PCR, cont. acyclovir
   -continuous EEG
   -f/u neuro recs
   -MRI if possible
   -check thyroid autoantibodies
   -obtain OSH records from [**Hospital1 **]
   2. Leukocytosis:
   -vanco/meropenem/flagyl, will d/c when cx neg
   -holding all narcs/benzos/psyche meds
   -f/u LP cx
   3. Hypoxia/hypercarbia: COPD, ? PE
   -BiPAP hs, and prn
   -check sputum cx
   -try to get PIV to r/o PE with CTA
   -try NC 3L if tolerates during day
   4. ESRD: Cont. HD
   5. OSA: cont. BiPAP at hs
   6. COPD: Cont. inhalers
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Midline - [**2147-4-4**] 06:49 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   22 year old female with CIVD, ESRD, COPD (from CIVD) who returns to the
   ICU because of acute mental status changes and worsening respiratory
   status.
   Overnight, marginal improvement in mental status and much improvement
   in respiratory status (currently on baseline 3 liters of oxygen).
   On exam, T 37   P 80   BP 110/70  RR 18  Sat 95%
   Gen: Awake but not very conversant
   Chest: coarse BS bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Neuro: alert but not conversant and is confused.  No focal neuro
   findings
   Reviewed Head CT with radiologist to help discern the etiology of white
   matter hypodensities and they relate that brain abscess is high on the
   differential.
   A:
   1)       Mental Status Changes
   2)       Hypoxia
   3)       CVID
   4)       ESRD
   Plan:
   1)       Given concerning CT scan results, will get MRI of the head
   yesterday respiratory status was too tenuous to consider without
   intubation but given improvement, I believe it is worth attempting
   without intubation first.  Will also need to do without Gad at first
   given the ESRD.  Can consider gad if we need too if study without is
   not definitive
   2)       Continue Broad-spectrum antibiotics incuding flagyl for
   potential anaerobes
   3)       Check CT scan of the chest to R/O PE
 if negative, will
   discontinue heparin
   4)       Follow respiratory status closely
   Time: 30 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2147-4-6**] 01:24 AM ------

2147-04-06 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CTA - no large PE (can't r/o smaller one).  LLL pna ([**Last Name (un) **] started on
   [**4-3**]).
   - CTV pelvis - no thrombus in pelvis
   - heparin stopped
   - MRI head pending (white matter hypodensities ? abscesses by CT head)
   - woke up some
   - group meeting today at 11:30am
   Allergies:
   Oxacillin
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2147-4-4**] 11:00 AM
   Meropenem - [**2147-4-5**] 12:03 PM
   Acyclovir - [**2147-4-5**] 02:03 PM
   Metronidazole - [**2147-4-6**] 03:32 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Psychiatric / Sleep: Delirious
   Flowsheet Data as of  [**2147-4-6**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.6
   HR: 89 (78 - 111) bpm
   BP: 100/42(55) {90/40(52) - 131/75(82)} mmHg
   RR: 25 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.2 kg (admission): 78 kg
             Total In:
                                                                    760 mL
                                                                    177 mL
   PO:
             TF:
   IVF:
                                                                    760 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    100 mL
   Urine:
   NG:
   Stool:
                                                                    200 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                    560 mL
                                                                     77 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   538 K/uL
   9.3 g/dL
   78 mg/dL
   9.0 mg/dL
   22 mEq/L
   3.7 mEq/L
   41 mg/dL
   105 mEq/L
   144 mEq/L
   28.6 %
   11.2 K/uL
        [image002.jpg]
                             [**2147-3-28**]  05:30 AM
                             [**2147-3-28**]  09:50 AM
                             [**2147-3-29**]  05:33 AM
                             [**2147-3-30**]  04:51 AM
                             [**2147-3-31**]  04:13 AM
                             [**2147-4-4**]  05:27 AM
                             [**2147-4-4**]  06:36 AM
                             [**2147-4-4**]  05:06 PM
                             [**2147-4-5**]  03:38 AM
                             [**2147-4-6**]  05:45 AM
   WBC
   9.2
   5.9
   7.0
   8.7
   19.5
   12.9
   11.2
   Hct
   28.4
   29.3
   25.9
   27.8
   30.6
   29.2
   28.6
   Plt
   [**Telephone/Fax (3) 4517**]
   538
   Cr
   10.3
   6.4
   9.2
   5.5
   9.9
   6.6
   9.0
   TCO2
   35
   30
   33
   Glucose
   81
   95
   92
   93
   95
   94
   78
   Other labs: PT / PTT / INR:14.9/24.6/1.3, ALT / AST:22/21, Alk Phos / T
   Bili:121/0.4, Differential-Neuts:89.2 %, Lymph:4.5 %, Mono:3.0 %,
   Eos:3.1 %, Lactic Acid:1.1 mmol/L, Albumin:4.4 g/dL, LDH:208 IU/L,
   Ca++:10.0 mg/dL, Mg++:2.3 mg/dL, PO4:6.3 mg/dL
   Imaging: CTA chest [**4-5**]: Due to extensive collaterals, suboptimal PE
   study, with most of contrast
   refluxing into azygous, hemiazygous, and lumbar veins. No large,
   central PE
   definitely identified. New left lower lobe consolidation. Improved but
   persistent right middle lobe infectious airspace opacities. Improvement
   in
   infectious appearing fat stranding around cecum/proximal colon. Dilated
   fluid-filled rectum with kinking of rectal tube.
   MRI head [**4-5**]: report pending
   Microbiology: [**2147-4-5**] 3:38 am STOOL
      FECAL CULTURE (Pending):
      CAMPYLOBACTER CULTURE (Pending):
      Cryptosporidium/Giardia (DFA) (Pending):
      CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2147-4-6**]):
         Feces negative for C.difficile toxin A & B by EIA.
      OVA + PARASITES (Pending):
   [**2147-4-4**] 10:15 am CSF;SPINAL FLUID      Source: LP #3.
          FLUID CULTURE (Preliminary):
   NO GROWTH.
      FUNGAL CULTURE (Preliminary):
      VIRAL CULTURE (Preliminary):
   Blood cx [**4-3**] and [**4-5**]: NGTD
   Assessment and Plan
   22 yo female with CVID, ESRD on HD, obstructive lung disease, and sleep
   apnea who is transferred back to ICU with altered mental status
   Delirium:  Etiology undetermined, with waxing and [**Doctor Last Name 282**] course.
   Differential includes hypoxemia vs. infection vs. medication effects
   vs. uremia vs. subclinical seizure activity vs. benzodiapine
   withdrawal.  Patient now with leukocytosis to 20K for the past two
   days, but mental status worsened despite initiation of broad-spectrum
   antibiotics yesterday.  [**Month (only) **] reviewed, and patient has not received any
   sedating medications since [**3-30**].
   -          f/u cultures
   -          f/u HSV PCR
   -          Continue broad-spectrum antibiotics with vancomcyin &
   meropenem
   -          Continue Acyclovir pending HSV PCR
   -          Continuous EEG monitoring
   -          Neurology & Psych consults following
   -          Consider MRI if able to tolerate without intubation
   -          Avoid narcotics, sedating medications
   -          Check thyroid autoantibodies
   -          B12, folate wnl this admission
   Hypoxia:   Patient has baseline hypoxia and hypercarbia secondary to
   obstructive lung disease, also diagnosed with severe OSA this
   admission.   Opiate overdose is unlikely given long duration since
   medication exposure.   Consider PE given A-a gradient.
   -          Continue BiPAP qHS and PRN
   -          Sputum for gram stain & culture
   -          Continue Spiriva, Advair, Albuterol PRN
   -          Empirically anticoagulated for ? PE, given known UE DVT and
   A-a gradient; will proceed to CTA chest when able
   Leukocytosis:  WBC rose to 20K on [**4-3**], elevated from baseline of
   6-9K.  Patient did originally present with abdominal pain and colitis;
   however, these symptoms have resolved in the interval course of her
   hospitalization.  New elevation of WBC suggests nosocomial infection.
   Cdiff toxin negative x 1 this admission, but this sample predates
   leukocytosis.  LLL infiltrate on CXR suggestive of aspiration
   pneumonitis vs HAP (although infiltrate has resolved on repeat CXR this
   AM).  Received dose of IVIG on [**4-4**].  CSF was unremarkable, making
   meningitis unlikely.
   -          pan-culture
   -          send stool studies, including repeat c. diff toxin
   -          Continue empiric coverage with vanc/meropenem until culture
   data negative x 72 hours
   -          Continue flagyl and start PR vancomycin as empiric coverage
   for c. diff
   -          dose IVIG today as 0.4 g/kg in the setting of likely acute
   infection
   ESRD: Secondary to IgA nephropathy and multiple episodes of
   pyelonephritis at age 2, s/p cadaveric transplant and rejection.
   - holding sevelamer while NPO
   - continue HD Tues/Thurs/Sat
   - Renal consult following
   .
   Upper extremity DVT: partial SVC occlusion [**3-6**] multiple lines. Not
   previously anticoagulated, now on heparin gtt while awaiting PE
   rule-out.
   -          Upper extremity CVL contraindicated
   Hypotension:   Currently stable off midodrien and fludrocort.
   - resume fludrocortisone and midodrine  when able to take PO
   medications
   OSA:  Previously evaluated by Sleep consult this admission.
   - Continue BiPAP qHS
   CVID: Previously was getting IVIG q2 weekly at dialysis as outpatient.
   -          check immunoglobulin levels
   -          received IVIG in the setting lf leukocytosis on [**4-4**]
   Asthma: Last PFT
s in [**9-/2146**] with moderate to severe proportionate
   decrease in flows and volumes with a strong bronchodilator response.
   Normal diffusion capacity. Features suggestive of poorly controlled
   asthma associated with obesity related ventilatory restriction.
   - Continue Spiriva, Advair
   - Albuterol PRN
   - encourage smoking cessation
   .
   Mental illness:  Patient has a long history of anxiety and depression.
   - Psychiatry
   - hold cymbalta, klonopin, pimozide, cogentin, benztropine as per Psych
   recs
   Prophylaxis:
   -          Heparin gtt
   -          Continue home PPI
   FEN:
   - NPO while delirious.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2147-4-4**] 06:49 AM
   22 Gauge - [**2147-4-5**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2147-04-06 11:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CTA torso showed no central PE and no pelvic DVT, some LLL PNA. Stool
   C. Diff neg. MRI with possible subacute infarct
 MAGNETIC RESONANCE IMAGING - At [**2147-4-5**] 04:37 PM
   Allergies:
   Oxacillin
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2147-4-4**] 11:00 AM
   Meropenem - [**2147-4-5**] 12:03 PM
   Acyclovir - [**2147-4-5**] 02:03 PM
   Metronidazole - [**2147-4-6**] 03:32 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-4-6**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-4-6**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.6
   HR: 98 (80 - 110) bpm
   BP: 111/52(65) {99/41(54) - 131/75(82)} mmHg
   RR: 25 (14 - 33) insp/min
   SpO2: 82%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.2 kg (admission): 78 kg
             Total In:
                                                                    760 mL
                                                                    266 mL
   PO:
             50 mL
   TF:
   IVF:
                                                                    760 mL
                                                                    216 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    100 mL
   Urine:
   NG:
   Stool:
                                                                    200 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                    560 mL
                                                                    166 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 82%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   538 K/uL
   78 mg/dL
   9.0 mg/dL
   22 mEq/L
   3.7 mEq/L
   41 mg/dL
   105 mEq/L
   144 mEq/L
   28.6 %
   11.2 K/uL
        [image002.jpg]
                             [**2147-3-28**]  05:30 AM
                             [**2147-3-28**]  09:50 AM
                             [**2147-3-29**]  05:33 AM
                             [**2147-3-30**]  04:51 AM
                             [**2147-3-31**]  04:13 AM
                             [**2147-4-4**]  05:27 AM
                             [**2147-4-4**]  06:36 AM
                             [**2147-4-4**]  05:06 PM
                             [**2147-4-5**]  03:38 AM
                             [**2147-4-6**]  05:45 AM
   WBC
   9.2
   5.9
   7.0
   8.7
   19.5
   12.9
   11.2
   Hct
   28.4
   29.3
   25.9
   27.8
   30.6
   29.2
   28.6
   Plt
   [**Telephone/Fax (3) 4517**]
   538
   Cr
   10.3
   6.4
   9.2
   5.5
   9.9
   6.6
   9.0
   TCO2
   35
   30
   33
   Glucose
   81
   95
   92
   93
   95
   94
   78
   Other labs: PT / PTT / INR:14.9/24.6/1.3, ALT / AST:22/21, Alk Phos / T
   Bili:121/0.4, Differential-Neuts:89.2 %, Lymph:4.5 %, Mono:3.0 %,
   Eos:3.1 %, Lactic Acid:1.1 mmol/L, Albumin:4.4 g/dL, LDH:208 IU/L,
   Ca++:10.0 mg/dL, Mg++:2.3 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 COLITIS, OTHER (NOT CDIFF)
 RESPIRATORY FAILURE, CHRONIC
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 SUPERIOR VENA CAVA SYNDROME (SVC)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 ASTHMA
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 .H/O HYPOTENSION (NOT SHOCK)
   A/P:
   1. delirium: Unclear what enhancing FLAIR lesions are, vs. delirium
   -may be some psychotic features given different response to family vs
   healthcare providers
   -acyclovir until HSV is negative
   -EEG
   -f/u final MRI read
   -get prior medical records
   -neuro recs
   2. Resp: LLL PNA on CT
   -vanco/meropenem/flagyl
   -send 2 more stools for C. Diff to rule out
   -f/u CSF
   -got IVIG 2 days ago
   3. Hypoxemia: COPD with LLL PNA
   -cont BiPAP hs and prn
   -no central PE, d/c'd heparin
   -spireva/advair/albuterol
   4. ESRD: Tu/Th/Sat HD
   -renal recs
   5. UE DVT: Finished anticoagulation
   6. Psyche: Off psyche meds currently, unclear what her psyche diagnoses
   are
   -need to clarify with psyche her diagnoses and if any of these need to
   be reintroduced
   7. FEN: Try some sips, advance as tolerates
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Midline - [**2147-4-4**] 06:49 AM
   22 Gauge - [**2147-4-5**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as outlined 22 year old female with CIVD, ESRD,
   COPD (from CIVD) who returns to the ICU because of acute mental status
   changes and worsening respiratory status.
   Overnight, marginal improvement in mental status and much improvement
   in respiratory status (currently on baseline 3 liters of oxygen).
   On exam, T 37.5   P 98   BP 111/52  RR 20  Sat 93%
   Gen: Slightly more alert but still confused
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Neuro: still confused. No focal neuro findings
   LP negative.
   A:
   1)       Mental Status Changes
 improving
   2)       Hypoxia
 improved to baseline
   3)       CVID
   4)       ESRD
   Plan:
   1)       Psych to weigh in on continuing psych meds
   2)       Continue bipap as needed
   3)       Review MRI
   4)       Continue to follow all of her cultures
   Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2147-4-7**] 02:37 PM ------

2147-04-07 08:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family meeting held to update family & caretakers
   - HD tolerated
   - Continuous EEG monitoring without seizure activity
   - More interactive & tolerating PO intake
   - PR vancomycin changed to PO vancomycin
   - Cdiff nebative x 3
   - Resumed Sevelamer
   - Tolerated nasal-cannula O2
   - Stool is grossly guiac-positive
   Allergies:
   Oxacillin
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2147-4-6**] 03:30 PM
   Meropenem - [**2147-4-6**] 04:40 PM
   Acyclovir - [**2147-4-6**] 05:50 PM
   Metronidazole - [**2147-4-7**] 04:09 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-4-7**] 07:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Diarrhea, guiac-positive
   Psychiatric / Sleep: Delirious, Daytime somnolence, lethargic
   Allergy / Immunology: Immunocompromised
   Flowsheet Data as of  [**2147-4-7**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 62 (62 - 105) bpm
   BP: 95/43(55) {77/32(47) - 115/61(72)} mmHg
   RR: 18 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.2 kg (admission): 78 kg
             Total In:
                                                                  1,090 mL
                                                                    261 mL
   PO:
                                                                    150 mL
                                                                     80 mL
   TF:
   IVF:
                                                                    940 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    -10 mL
                                                                    261 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Bipap mask
   FiO2: 4L NC
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   513 K/uL
   9.1 g/dL
   84 mg/dL
   5.4 mg/dL
   30 mEq/L
   3.6 mEq/L
   18 mg/dL
   103 mEq/L
   144 mEq/L
   28.2 %
   10.7 K/uL
        [image002.jpg]
                             [**2147-3-28**]  09:50 AM
                             [**2147-3-29**]  05:33 AM
                             [**2147-3-30**]  04:51 AM
                             [**2147-3-31**]  04:13 AM
                             [**2147-4-4**]  05:27 AM
                             [**2147-4-4**]  06:36 AM
                             [**2147-4-4**]  05:06 PM
                             [**2147-4-5**]  03:38 AM
                             [**2147-4-6**]  05:45 AM
                             [**2147-4-7**]  03:38 AM
   WBC
   9.2
   5.9
   7.0
   8.7
   19.5
   12.9
   11.2
   10.7
   Hct
   28.4
   29.3
   25.9
   27.8
   30.6
   29.2
   28.6
   28.2
   Plt
   [**Telephone/Fax (2) 4572**]13
   Cr
   10.3
   6.4
   9.2
   5.5
   9.9
   6.6
   9.0
   5.4
   TCO2
   30
   33
   Glucose
   81
   95
   92
   93
   95
   94
   78
   84
   Other labs: PT / PTT / INR:14.3/25.3/1.2, ALT / AST:22/21, Alk Phos / T
   Bili:121/0.4, Differential-Neuts:89.2 %, Lymph:4.5 %, Mono:3.0 %,
   Eos:3.1 %, Lactic Acid:1.1 mmol/L, Albumin:4.4 g/dL, LDH:208 IU/L,
   Ca++:10.0 mg/dL, Mg++:2.1 mg/dL, PO4:5.1 mg/dL
   Microbiology: [**2147-4-5**] 3:38 am STOOL     CONSISTENCY: WATERY
   Source: Stool.
      FECAL CULTURE (Pending):
      CAMPYLOBACTER CULTURE (Pending):
      Cryptosporidium/Giardia (DFA) (Final [**2147-4-6**]):
         NO CRYPTOSPORIDIUM OR GIARDIA SEEN.
      CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2147-4-6**]):
         Feces negative for C.difficile toxin A & B by EIA.
      OVA + PARASITES (Final [**2147-4-6**]):
         NO OVA AND PARASITES SEEN.
   Cdiff negative x 2
   Blood cx [**4-3**] & [**4-5**]: NGTD
   [**2147-4-4**] 10:15 am CSF;SPINAL FLUID      Source: LP #3.
      GRAM STAIN (Final [**2147-4-4**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      FLUID CULTURE (Preliminary):    NO GROWTH.
      FUNGAL CULTURE (Preliminary):
      VIRAL CULTURE (Preliminary):    No Virus isolated so far.
   HSV PCR: pending
   Assessment and Plan
   22 yo female with CVID, ESRD on HD, obstructive lung disease, and sleep
   apnea who is transferred back to ICU with altered mental status
   Delirium:  Etiology undetermined, with waxing and [**Doctor Last Name 282**] course.
   Differential includes hypoxemia vs. infection vs. medication effects
   vs. uremia vs. subclinical seizure activity vs. benzodiapine
   withdrawal.  Patient developed leukocytosis to 20K concomitant with
   mental status decline.  Patient also has a hypodense area on MRI brain,
   consistent with old infarct.  [**Month (only) **] reviewed, and patient has not
   received any sedating medications since [**3-30**].  No evidence of seizure
   activity on prelim EEG report.
   -          f/u cultures
   -          f/u HSV PCR, then d/c Acyclovir
   -          Continue broad-spectrum antibiotics with vancomcyin &
   meropenem for treatment of underlying infection
   -          f/u EEG report
   -          Neurology & Psych consults following
   -          Will discuss with Psych today whether abrupt discontinuation
   of Psych meds could be contributing factor
   -          Avoid narcotics, sedating medications
   -          f/u thyroid autoantibodies
   -          B12, folate wnl this admission
   Hypoxia:   Patient has baseline hypoxia and hypercarbia secondary to
   obstructive lung disease, also diagnosed with severe OSA this
   admission.   Opiate overdose is unlikely given long duration since
   medication exposure.   CTA chest negative for PE.
   -          Continue BiPAP qHS and PRN
   -          Sputum for gram stain & culture
   -          Continue Spiriva, Advair, Albuterol PRN
   Leukocytosis:  WBC rose to 20K on [**4-3**], elevated from baseline of
   6-9K.  Patient did originally present with abdominal pain and colitis;
   however, these symptoms have resolved in the interval course of her
   hospitalization.  New elevation of WBC suggests nosocomial infection.
   Cdiff toxin negative x 2 since development of leukocytosis.  LLL
   infiltrate on CT chest  likely represents HAP.  Received dose of IVIG
   on [**4-4**].  CSF was unremarkable, making meningitis unlikely.
   -          f/u micro
   -          Vanc/Meropenem day #5 of 7 for treatment of HAP
   -          Continue flagyl and PO vancomycin as empiric coverage for c.
   diff
   -          Check c. diff toxin x 3
   Guiac-positive stool:
   -          [**Hospital1 **] PPI
   -          Check hematocrit in PM
   -          Active Type & screen
   ESRD: Secondary to IgA nephropathy and multiple episodes of
   pyelonephritis at age 2, s/p cadaveric transplant and rejection.
   - continue Sevelamer
   - continue HD Tues/Thurs/Sat
   - Renal consult following
   .
   Upper extremity DVT: partial SVC occlusion [**3-6**] multiple lines. Not
   previously anticoagulated, now on heparin gtt while awaiting PE
   rule-out.
   -          Upper extremity CVL contraindicated
   Hypotension:   Currently stable off midodrien and fludrocort.
   - continue fludrocortisone and midodrine  when able to take PO
   medications
   OSA:  Previously evaluated by Sleep consult this admission.
   - Continue BiPAP qHS
   CVID: Previously was getting IVIG q2 weekly at dialysis as outpatient.
   -          check immunoglobulin levels
   -          received IVIG in the setting lf leukocytosis on [**4-4**]
   Asthma: Last PFT
s in [**9-/2146**] with moderate to severe proportionate
   decrease in flows and volumes with a strong bronchodilator response.
   Normal diffusion capacity. Features suggestive of poorly controlled
   asthma associated with obesity related ventilatory restriction.
   - Continue Spiriva, Advair
   - Albuterol PRN
   - encourage smoking cessation
   .
   Mental illness:  Patient has a long history of anxiety and depression.
   - Psychiatry following
   - hold cymbalta, klonopin, pimozide, cogentin, benztropine as per Psych
   recs, but will discuss resuming as appropriate
   Prophylaxis:
   -          SC heparin
   -          Continue home PPI
   FEN:
   - Advance diet as tolerated, with aspiration precautions in the setting
   of resolving delirium
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Midline - [**2147-4-4**] 06:49 AM
   22 Gauge - [**2147-4-5**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:  Call out to medicine team.

2147-04-07 12:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Improved MS. Now following commands. Asking for crackers. HD tolerated
   yesterday. EEG showed no seizure. C. Diff neg X2. MRI showed chronic
   CVA subcortical.
   Allergies:
   Oxacillin
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2147-4-6**] 03:30 PM
   Meropenem - [**2147-4-6**] 04:40 PM
   Acyclovir - [**2147-4-6**] 05:50 PM
   Metronidazole - [**2147-4-7**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-4-7**] 07:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-4-7**] 12:32 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 62 (58 - 101) bpm
   BP: 105/33(49) {77/32(47) - 105/61(66)} mmHg
   RR: 20 (16 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.2 kg (admission): 78 kg
             Total In:
                                                                  1,090 mL
                                                                    402 mL
   PO:
                                                                    150 mL
                                                                     80 mL
   TF:
   IVF:
                                                                    940 mL
                                                                    322 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    -10 mL
                                                                    402 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Bipap mask
   SpO2: 99%
   ABG: ///30/
   PaO2 / FiO2: 4L
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): X3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   513 K/uL
   84 mg/dL
   5.4 mg/dL
   30 mEq/L
   3.6 mEq/L
   18 mg/dL
   103 mEq/L
   144 mEq/L
   28.2 %
   10.7 K/uL
        [image002.jpg]
                             [**2147-3-28**]  09:50 AM
                             [**2147-3-29**]  05:33 AM
                             [**2147-3-30**]  04:51 AM
                             [**2147-3-31**]  04:13 AM
                             [**2147-4-4**]  05:27 AM
                             [**2147-4-4**]  06:36 AM
                             [**2147-4-4**]  05:06 PM
                             [**2147-4-5**]  03:38 AM
                             [**2147-4-6**]  05:45 AM
                             [**2147-4-7**]  03:38 AM
   WBC
   9.2
   5.9
   7.0
   8.7
   19.5
   12.9
   11.2
   10.7
   Hct
   28.4
   29.3
   25.9
   27.8
   30.6
   29.2
   28.6
   28.2
   Plt
   [**Telephone/Fax (2) 4572**]13
   Cr
   10.3
   6.4
   9.2
   5.5
   9.9
   6.6
   9.0
   5.4
   TCO2
   30
   33
   Glucose
   81
   95
   92
   93
   95
   94
   78
   84
   Other labs: PT / PTT / INR:14.3/25.3/1.2, ALT / AST:22/21, Alk Phos / T
   Bili:121/0.4, Differential-Neuts:89.2 %, Lymph:4.5 %, Mono:3.0 %,
   Eos:3.1 %, Lactic Acid:1.1 mmol/L, Albumin:4.4 g/dL, LDH:208 IU/L,
   Ca++:10.0 mg/dL, Mg++:2.1 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 COLITIS, OTHER (NOT CDIFF)
 RESPIRATORY FAILURE, CHRONIC
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 SUPERIOR VENA CAVA SYNDROME (SVC)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 ASTHMA
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 .H/O HYPOTENSION (NOT SHOCK)
   Plan:
   1. Delirium: Medication vs infection vs hypercarbia vs withdrawl from
   psyche meds
   -f/u psyche recs regarding restarting meds
   -f/u HSV PCR
   -f/u thyroid Ab
   2. PNA/? C. Diff: Vanco/[**Last Name (un) **] day [**6-8**]
   -f/u third C. Diff
   3. Hypoxia: OSA/COPD/asthma:
   -3L NC
   -BiPAP hs at all times
   4. ESRD: HD tomorrow
   -sevelamer
   5. Hypotension: Restarted fludrocort and midodrine
   6. Melena: Follow up hct, had midline and PIV
   7. FEN: ADAT
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Midline - [**2147-4-4**] 06:49 AM
   22 Gauge - [**2147-4-5**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as outlined 22 year old female with CIVD, ESRD,
   COPD (from CIVD) who returns to the ICU because of acute mental status
   changes and worsening respiratory status.
   Overnight, marginal improvement in mental status and much improvement
   in respiratory status (currently on baseline 3 liters of oxygen).
   On exam, T 36.7   P 66   BP 105/33  RR 20  Sat 95%
   Gen: Awake, alert and conversant
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Neuro: alert and oriented.  No focal neuro findings
   MRI had showed what appears to be old cortical infarctions but no acute
   findings.  LP negative.
   A:
   1)       Mental Status Changes
 resolved at this time
   2)       Hypoxia
 improved to baseline
   3)       CVID
   4)       ESRD
   Plan:
   1)       Psych attending to see to determine what psych meds to
   re-start
 saw patient and wants to hold off any meds for now
 will
   re-evaluate again tomorrow
   2)       Continue bipap at night as per her standard regimen
   3)       Continue to follow all of her cultures
   4)       At this point it is unclear what caused the significantly
   altered mental status but she is much improved and appears at baseline
 will be able to send to the floor today.
   Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2147-4-7**] 13:54 ------